US08071588B2
A mixture of N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (1.3 g, 2.275 mmol), (3-formylphenyl)boronic acid (0.428 g, 2.85 mmol), tetrakis (triphenylphosphine) palladium (0) (0.093 g, 0.080 mmol), sodium carbonate (0.610 g, 5.76 mmol), and 1,4-dioxane (14 mL) and water (5 mL), while stirring under N2, was microwaved at 140° C. for 30 min. The reaction mixture was diluted with EtOAc and water. The organic layer was recovered and washed with saturated NaCl, dried over Na2SO4, and then evaporated to viscous taffy. The viscous taffy was purified on a Chromatotron Plate Silica Gel (1000μ) eluting with CH2Cl2— MeOH (97:3) to afford N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]propanediamide (69.7 mg, 32.8%) as a viscous, nearly colorless, foam, taffy. LC-MS m/z 597.5 (M+H)+, 0.87 min (ret time).

reactant | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 2.275 mmol, 1.3 g | BrC=1C=C(C=CC1C)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H35BrN6O3
reactant | (3-formylphenyl)boronic acid | 2.85 mmol, 0.428 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 5.76 mmol, 0.610 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 14 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.080 mmol, 0.093 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 5 mL | O | H2O
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]propanediamide | 69.7 mg, 32.8% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)=O)CC | C34H40N6O4
